.subckt eeg_fd_ota_core INP INN VBP VBN OUTP OUTN VCM_SENSE VDD18 VSS
* Device dimensions mirror eeg_fd_ota_core.sch. Initial sizing only.
XM1 OUTP INP TAIL VSS sky130_fd_pr__nfet_01v8 L=2 W=120 nf=12
XM2 OUTN INN TAIL VSS sky130_fd_pr__nfet_01v8 L=2 W=120 nf=12
XM3 OUTP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2 W=24 nf=4
XM4 OUTN VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2 W=24 nf=4
XM5 TAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=48 nf=8
RCM1 OUTP VCM_SENSE 50k
RCM2 OUTN VCM_SENSE 50k
.ends eeg_fd_ota_core
