* test6 unchopped input-referred noise, EEG/ADC band 0.5-250 Hz
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core_highgain.spice
.include eeg_cmfb_amp.spice
.include eeg_fd_ota_twostage_highgain.spice
.param VDD=1.8 VCM=0.9 VBN=0.63
.temp 27
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VBN_SRC VBN 0 {VBN}
VINN INN 0 DC {VCM}
VDIFF INP INN DC 0 AC 1
XAFE INP INN VCM_REF VBN OUTP OUTN VDD18 0 eeg_fd_ota_twostage_highgain
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.control
set noaskquit
op
noise v(OUTP,OUTN) VDIFF dec 100 0.5 250
setplot noise1
wrdata ../results/noise_unchopped_0p5_250hz.csv frequency inoise_spectrum onoise_spectrum
setplot noise2
print inoise_total onoise_total
quit
.endc
.end
