* Control experiment: ideal input modulation, real OTA and static PGA32
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core_highgain.spice
.include eeg_cmfb_amp.spice
.include eeg_fd_ota_twostage_highgain.spice
.param VDD=1.8 VCM=0.9 VBN=0.63 TCHOP=125u
.temp 27
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VBN_SRC VBN 0 {VBN}
VPHI PHI 0 PULSE(0 {VDD} 0.05u 10n 10n 62.4u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 62.55u 10n 10n 62.4u {TCHOP})
VSIGP SIGP 0 SIN({VCM} 25u 100)
VSIGN SIGN 0 SIN({VCM} 25u 100 0 0 180)
BCHOPSIGN CHOPSIGN 0 V=(v(PHI)-v(PHIB))/{VDD}
BCHP CHP 0 V={VCM}+0.5*(v(SIGP)-v(SIGN))*v(CHOPSIGN)
BCHN CHN 0 V={VCM}-0.5*(v(SIGP)-v(SIGN))*v(CHOPSIGN)
CINP CHP SUMP 32p
CINN CHN SUMN 32p
CFP OUTN SUMP 1p
CFN OUTP SUMN 1p
RBIASP SUMP VCM_REF 1T
RBIASN SUMN VCM_REF 1T
XOTA SUMP SUMN VCM_REF VBN OUTP OUTN VDD18 0 eeg_fd_ota_twostage_highgain
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
BDEMOD DEMOD 0 V=(v(OUTP)-v(OUTN))*v(CHOPSIGN)
RLP DEMOD FILT 10k
CLP FILT 0 10n
.control
set noaskquit
tran 0.5u 20m 5m
let vsigd=v(SIGP)-v(SIGN)
let voutd=v(OUTP)-v(OUTN)
let vcmout=(v(OUTP)+v(OUTN))/2
meas tran vin_pp pp vsigd from=10m to=20m
meas tran raw_pga_pp pp voutd from=10m to=20m
meas tran demod_filt_pp pp v(FILT) from=10m to=20m
meas tran vcm_avg avg vcmout from=10m to=20m
meas tran vcm_pp pp vcmout from=10m to=20m
wrdata ../results/ideal_input_mod_pga32_control_tt.csv time vsigd voutd v(FILT) vcmout v(PHI) v(PHIB)
quit
.endc
.end
